US08383644B2
(S)-2-Amino-3-[4-(2,3-dimethyl-pyridin-4-yloxy)-phenyl]-propionic acid methyl ester dihydrochloride
(S)-2-tert-Butoxycarbonylamino-3-[4-(2,3-dimethyl-pyridin-4-yloxy)-phenyl]-propionic acid methyl ester (0.2 g) was taken in 4 mL of DCM and cooled to 0° C. and HCl (1 mL, 4N in dioxane) was added and reaction was stirred at room temperature for 2 hours. All volatiles were evaporated and residue was triturated with DCM/hexanes (0.17 g). LCMS (m/z): 302.

reactant | (S)-2-tert-Butoxycarbonylamino-3-[4-(2,3-dimethyl-pyridin-4-yloxy)-phenyl]-propionic acid methyl ester | 0.2 g | COC([C@H](CC1=CC=C(C=C1)OC1=C(C(=NC=C1)C)C)NC(=O)OC(C)(C)C)=O | C22H28N2O5
reactant | HCl | 4N, 1 mL | Cl | ClH
solvent | DCM | 4 mL | C(Cl)Cl | CH2Cl2
product | (S)-2-Amino-3-[4-(2,3-dimethyl-pyridin-4-yloxy)-phenyl]-propionic acid methyl ester dihydrochloride | Cl.Cl.COC([C@H](CC1=CC=C(C=C1)OC1=C(C(=NC=C1)C)C)N)=O | InChI=1S/C17H20N2O3.2ClH/c1-11-12(2)19-9-8-16(11)22-14-6-4-13(5-7-14)10-15(18)17(20)21-3;;/h4-9,15H,10,18H2,1-3H3;2*1H/t15-;;/m0../s1
